US07253196B2
Ethyl 2-bromo-2-(pyridin-3-yl)propanoate
To a stirred mixture of ethyl 2-(pyridin-3-yl)propanoate (4.2 g, 23 mmol), CCl4 (100 mL), and N-bromosuccinimide (Aldrich, 4.6 g, 26 mmol) was added 2,2′-azobisisobutyronitrile (Aldrich, 0.8 g, 5 mmol) under N2 at room temperature. The mixture was gradually heated to reflux. After 7 h, the reaction mixture was concentrated in vacuo. The crude was purified by silica gel chromatography. Mass Spec. m/z+ion 258, 260 (M+1).

reactant | ethyl 2-(pyridin-3-yl)propanoate | 23 mmol, 4.2 g | N1=CC(=CC=C1)C(C(=O)OCC)C | C10H13NO2
reactant | N-bromosuccinimide | 26 mmol, 4.6 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 2,2′-azobisisobutyronitrile | 5 mmol, 0.8 g | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
solvent | CCl4 | 100 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | Ethyl 2-bromo-2-(pyridin-3-yl)propanoate | BrC(C(=O)OCC)(C)C=1C=NC=CC1 | C10H12BrNO2
